US07790668B2
A) 6-Methoxy-6-methyl-2-octanone
To 2 kg 6-methyl-oct-5-en-2-one in 4 l methanol was added 800 ml concentrated sulphuric acid at 3° C. over a period of 40 minutes. After further stirring for 5 h at room temperature, the solution was poured onto 8 kg of ice water and extracted with tert.-butyl methyl ether. The combined organic phases were washed with 20% Na2CO3 (200 ml) and concentrated NaCl solution (3×150 ml). After removal of the solvent, the residue was distilled over a 70 cm Sulzer column to give 840 g recovered starting material (boiling point: 72°-75° C./10 mm Hg) and 970 g 6-methoxy-6-methyl-2-octanone (bp.: 95°-98° C./10 Torr=13.3 mbar).

reactant | 6-methyl-oct-5-en-2-one | 2 kg | CC(=CCCC(C)=O)CC | C9H16O
reactant | sulphuric acid | 800 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 4 l | CO | CH4O
product | 6-Methoxy-6-methyl-2-octanone | COC(CCCC(C)=O)(CC)C | C10H20O2
